Truncated Datasets/Truncated Pathways Dataset (first 1000 rows).csv
original_reactions,updated_reaction,mechanistic_class,mechanistic_label,data_source
O=C(OCc1ccccc1)[N:1]1[CH2:2][C@@H:3]2[CH2:4][C@@H:5]([NH:6][CH:7]3[CH:8]([O:9][CH3:10])[CH2:11][O:12][CH2:13][CH2:14]3)[CH2:15][C@:16]2([C:17](=[O:18])[N:19]2[CH2:20][CH2:21][c:22]3[n:23][cH:24][c:25]([C:26]([F:27])([F:28])[F:29])[cH:30][c:31]3[CH2:32]2)[CH2:33]1>>[NH:1]1[CH2:2][C@@H:3]2[CH2:4][C@@H:5]([NH:6][C@@H:7]3[C@H:8]([O:9][CH3:10])[CH2:11][O:12][CH2:13][CH2:14]3)[CH2:15][C@:16]2([C:17](=[O:18])[N:19]2[CH2:20][CH2:21][c:22]3[n:23][cH:24][c:25]([C:26]([F:27])([F:28])[F:29])[cH:30][c:31]3[CH2:32]2)[CH2:33]1,[O:201]=[C:101]([O:202][CH2:203][c:204]1[cH:205][cH:206][cH:207][cH:208][cH:209]1)[N:1]1[CH2:2][C@@H:3]2[CH2:4][C@@H:5]([NH:6][CH:7]3[CH:8]([O:9][CH3:10])[CH2:11][O:12][CH2:13][CH2:14]3)[CH2:15][C@:16]2([C:17](=[O:18])[N:19]2[CH2:20][CH2:21][c:22]3[n:23][cH:24][c:25]([C:26]([F:27])([F:28])[F:29])[cH:30][c:31]3[CH2:32]2)[CH2:33]1.[BrH:301]>>[NH:1]1[CH2:2][C@@H:3]2[CH2:4][C@@H:5]([NH:6][C@@H:7]3[C@H:8]([O:9][CH3:10])[CH2:11][O:12][CH2:13][CH2:14]3)[CH2:15][C@:16]2([C:17](=[O:18])[N:19]2[CH2:20][CH2:21][c:22]3[n:23][cH:24][c:25]([C:26]([F:27])([F:28])[F:29])[cH:30][c:31]3[CH2:32]2)[CH2:33]1,Cbz_deprotection,"[(201, 301.1), ([301.1, 301], 301), (301, 203), ([203, 202], [202, 101]), ([101, 201], 201), (1, 201.1), ([201.1, 201], 201), (201, [201, 101]), ([101, 1], 1)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
[OH:6][CH:1]([CH3:2])[CH3:3].[O:4]=[C:5](O)[c:7]1[s:8][c:9]([Cl:10])[n:11][c:12]1[C:13]([F:14])([F:15])[F:16]>>[CH:1]([CH3:2])([CH3:3])[O:6][C:5](=[O:4])[c:7]1[s:8][c:9]([Cl:10])[n:11][c:12]1[C:13]([F:14])([F:15])[F:16],[OH:101][C:5](=[O:4])[c:7]1[s:8][c:9]([Cl:10])[n:11][c:12]1[C:13]([F:14])([F:15])[F:16].[CH:1]([CH3:2])([CH3:3])[OH:6].[N:301](=[C:302]=[N:303]C1CCCCC1)C2CCCCC2>>[CH:1]([CH3:2])([CH3:3])[O:6][C:5](=[O:4])[c:7]1[s:8][c:9]([Cl:10])[n:11][c:12]1[C:13]([F:14])([F:15])[F:16],DCC_condensation,"[(301, 101.1), ([101.1, 101], 101), (101, 302), ([302, 301], 301), (6, 5), ([5, 4], 4), (303, 6.1), ([6.1, 6], 6), (4, [4, 5]), ([5, 101], 101), (101, [101, 302]), ([302, 303], 303)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
O=[CH:1][c:2]1[c:3]([CH3:4])[c:5]2[c:6]([nH:7]1)[CH2:8][CH2:9][N:10]([CH2:11][CH2:12][N:13]1[CH2:14][CH2:15][CH2:16][CH2:17][CH2:18]1)[C:19]2=[O:20].[O:21]=[C:22]1[CH2:23][c:24]2[c:25]([n:26][cH:27][n:28][c:29]2[NH:30][c:31]2[cH:32][cH:33][c:34]([F:35])[c:36]([Cl:37])[cH:38]2)[NH:39]1>>[CH:1]([c:2]1[c:3]([CH3:4])[c:5]2[c:6]([nH:7]1)[CH2:8][CH2:9][N:10]([CH2:11][CH2:12][N:13]1[CH2:14][CH2:15][CH2:16][CH2:17][CH2:18]1)[C:19]2=[O:20])=[C:23]1[C:22](=[O:21])[NH:39][c:25]2[c:24]1[c:29]([NH:30][c:31]1[cH:32][cH:33][c:34]([F:35])[c:36]([Cl:37])[cH:38]1)[n:28][cH:27][n:26]2,[O:101]=[CH:1][c:2]1[c:3]([CH3:4])[c:5]2[c:6]([nH:7]1)[CH2:8][CH2:9][N:10]([CH2:11][CH2:12][N:13]1[CH2:14][CH2:15][CH2:16][CH2:17][CH2:18]1)[C:19]2=[O:20].[O:21]=[C:22]1[CH2:23][c:24]2[c:25]([n:26][cH:27][n:28][c:29]2[NH:30][c:31]2[cH:32][cH:33][c:34]([F:35])[c:36]([Cl:37])[cH:38]2)[NH:39]1.[OH-:301]>>[CH:1]([c:2]1[c:3]([CH3:4])[c:5]2[c:6]([nH:7]1)[CH2:8][CH2:9][N:10]([CH2:11][CH2:12][N:13]1[CH2:14][CH2:15][CH2:16][CH2:17][CH2:18]1)[C:19]2=[O:20])=[C:23]1[C:22](=[O:21])[NH:39][c:25]2[c:24]1[c:29]([NH:30][c:31]1[cH:32][cH:33][c:34]([F:35])[c:36]([Cl:37])[cH:38]1)[n:28][cH:27][n:26]2,aldol_condensation,"[(301, 23.1), ([23.1, 23], [23, 22]), ([22, 21], 21), (21, [21, 22]), ([22, 23], 1), ([1, 101], 101), (101, 301.1), ([301.1, 301], 301), (301, 23.1), ([23.1, 23], [23, 22]), ([22, 21], 21), (21, [21, 22]), ([22, 23], [23, 1]), ([1, 101], 101)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
CO[C:1](=[O:2])[c:3]1[n:4][c:5]([Br:6])[cH:7][n:8][c:9]1[S:10][CH3:11].[NH2:12][c:13]1[cH:14][cH:15][cH:16][cH:17][n:18]1>>[C:1](=[O:2])([c:3]1[n:4][c:5]([Br:6])[cH:7][n:8][c:9]1[S:10][CH3:11])[NH:12][c:13]1[cH:14][cH:15][cH:16][cH:17][n:18]1,C[O:101][C:1](=[O:2])[c:3]1[n:4][c:5]([Br:6])[cH:7][n:8][c:9]1[S:10][CH3:11].[NH2:12][c:13]1[cH:14][cH:15][cH:16][cH:17][n:18]1>>[C:1](=[O:2])([c:3]1[n:4][c:5]([Br:6])[cH:7][n:8][c:9]1[S:10][CH3:11])[NH:12][c:13]1[cH:14][cH:15][cH:16][cH:17][n:18]1,nucleophilic_attack_to_(thio)carbonyl_or_sulfonyl,"[(12, 1), ([1, 2], 2), (2, [2, 1]), ([1, 101], 101)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
